Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-3.94978663296
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1],3.88621675582
[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7].[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.6211773026800005
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C@:3]([H:4])([C:5]=[O:6])[C:10]([H:11])([H:12])[H:13],2.19634356555
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7][H:8].[O:9][H:10],6.14585051306
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[C:1].[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],5.679272483230001
[H:1][C:2][O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][C:2]1[O:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[C:12]1([H:13])[H:14],-0.628012467931
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C:3][H:4],6.88838536
[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-5.09138477605
[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[O:3][O:4][C:5]([H:6])([H:7])[H:8]>>[C:1]=[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.83195938431
[C:4](#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.1677485051799999
[C:5]=[C:6]([H:7])[H:8].[H:1][C:2]([H:3])([C:4][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16])[H:9]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.70265459741
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:1].[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[O:11][H:12],7.16610990147
[H:12].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.2493387268300005
[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4][C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.203314521
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-3.4491550441199994
[O:1]=[C:2]=[C:3][O:9][C:6]([C:4][H:5])([H:7])[H:8]>>[O:1]=[C:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1,-3.82819870761
[H:1][C:2]1[C:3][C:4]([H:5])([H:6])/[C:7]1=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][C:8]#[C:7][C:4]([C:3]#[C:2][C:9]([H:10])([H:11])[H:12])([H:5])[H:6],-2.6519232129400003
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.79072547259
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:8][H:9].[H:7]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-2.23921877762
[C:8]([H:9])([H:10])[H:11].[O:1][C:2]([H:3])([H:4])[C:5]=[C:6]=[O:7]>>[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]=[O:7])[C:8]([H:9])([H:10])[H:11],-4.0022618478400025
[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7]/[C:8]([H:9])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],-1.7582388772
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[O:10].[H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-1.67704607894
[H:11].[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])[H:10]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.409770931180001
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])[H:6],0.7538999966
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.87513393901
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11].[H:5],5.23178473245
[C:1]#[C:2][C:3][C:4]([H:5])[H:6].[O:7]=[O:8]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8],0.9098019161
